US07163936B2
To a solution of allyl (2S)-2-(hydroxymethyl)-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate (218 mg, 0.7 mmol) in THF (3 ml) were added at 0–5° C. 4-methoxybenzyl chloride (95 ml, 0.70 mmol) and triethylamine (98 ml, 0.7 mmol). The mixture was stirred for 3 hours and then at room temperature for 45 minutes. To the solution were added an aqueous sodium hydrogen carbonate solution and ethy acetate. The mixture was separated with a separating funnel. The organic layer was washed with a saturated aqueous sodium solution, dried over magnesium sulfate and the organic layer was removed in vacuo. The residue was purified with preparative TLC to give allyl (2S)-2-(hydroxymethyl)-4-{2-[(4-methoxybenzyl)sulfanyl]-1,3-thiazol-4-yl}-3,6-dihydro-1(2 H)-pyridinecarboxylate (150 mg, 50%).

reactant | allyl (2S)-2-(hydroxymethyl)-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate | 0.7 mmol, 218 mg | OC[C@H]1N(CC=C(C1)C=1N=C(SC1)S)C(=O)OCC=C | C13H16N2O3S2
reactant | 4-methoxybenzyl chloride | 0.70 mmol, 95 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | triethylamine | 0.7 mmol, 98 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethy acetate | C(C)(=O)OCC | C4H8O2
product | allyl (2S)-2-(hydroxymethyl)-4-{2-[(4-methoxybenzyl)sulfanyl]-1,3-thiazol-4-yl}-3,6-dihydro-1(2 H)-pyridinecarboxylate | 150 mg, 50% | OC[C@H]1N(CC=C(C1)C=1N=C(SC1)SCC1=CC=C(C=C1)OC)C(=O)OCC=C | C21H24N2O4S2
